US06605600B1
8-(3-Oxo-4-aza-tricyclo[3.2.1.02,7]oct-6-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
8-(5-Oxo-tricyclo[2.2.1.02,6]hept-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (150 mg) was taken in HOAc (5 ml) and H2NOSO3H (100 mg) was added and refluxed for 5 hrs. Cooled to room temperature, treated with ice, sat NaHCO3, extracted with ethyl acetate, washed with brine, and dried over MgSO4. After concentration, the crude product was crystallized from acetone/water. Yield (135 mg). Mass (ES+358).

reactant | 8-(5-Oxo-tricyclo[2.2.1.02,6]hept-3-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 150 mg | O=C1C2C(C3C(C13)C2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C18H22N4O3
reactant | H2NOSO3H | 100 mg | NOS(=O)(=O)O | H3NO4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HOAc | 5 ml | CC(=O)O | C2H4O2
product | 8-(3-Oxo-4-aza-tricyclo[3.2.1.02,7]oct-6-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | O=C1C2C3C2C(C(N1)C3)C3=NC=1N(C(N(C(C1N3)=O)CCC)=O)CCC | C18H23N5O3
